US06479506B1
A mixture of 3-phenyl-1,2,3-triazolo[4,5-c]isoquinolin-5-one (0.10 g, 0.38 mmol), cesium carbonate (0.33 g, 1.0 mmol) and 2-methyl-3-chloromethyl-1,2,4-triazole hydrochloride (0.08 g, 0.48 mmol) in dry DMF (2 ml) was stirred at 60° C. for 5 h. The mixture was diluted with water (20 ml) and the white solid was collected, washing with water (10 ml) and diethyl ether (10 ml). The solid was dried to give 5-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-3-phenyl-1,2,3-triazolo[4,5-c]isoquinoline (0.093 g, 68%), m.p. 188-190° C. Found: C, 63.48; H, 4.19; N, 27.14. C19H15N7O.0.1(H2O) requires C, 63.54; H, 4.27; N, 27.30. δH (360 MHz; CDCl3) 3.99 (3H, s), 5.83 (2H, s), 7.48-7.53 (1H, m), 7.61-7.70 (3H, m), 7.94-7.98 (2H, m), 8.20-8.22 (2H, m), 8.37 (1H, d, J=8) and 8.69 (1H, d, J=8); m/z (ES+) 358 (M+H+).

reactant | 3-phenyl-1,2,3-triazolo[4,5-c]isoquinolin-5-one | 0.38 mmol, 0.10 g | C1(=CC=CC=C1)N1NN=C2C1=NC(C=1C=CC=CC21)=O | C15H10N4O
reactant | cesium carbonate | 1.0 mmol, 0.33 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-methyl-3-chloromethyl-1,2,4-triazole hydrochloride | 0.48 mmol, 0.08 g | Cl.CN1N=CN=C1CCl
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 20 ml | O | H2O
product | 5-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-3-phenyl-1,2,3-triazolo[4,5-c]isoquinoline | 0.093 g, 68% | CN1N=CN=C1COC1=NC2=C(C=3C=CC=CC13)N=NN2C2=CC=CC=C2 | C19H15N7O
